data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5319,"CC1=CC2=C(C=C1)C1(O)C3(CCC(C)CCC23)OCC[O+:1]1[B-:2](F)(F)F.CC[SiH](CC)CC|((2, 1), 1)"
train,pmechdb_split_0,0,2539,"CCC(N)(O)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3307,"COC(=O)C1(CC[C:1](C)=[OH+:2])CCC[C:3](Br)=[C:4]1[OH:5].O=S(=O)([O-])O|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,530,"C1=CC=C(C[CH:1]=[O:2])C=C1.C1CC[NH:3]CC1.CC(=O)O.COC(=O)CC(=O)O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8297,"N#[C-:1].[CH2:2]=[CH:3][C:4]#[N:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7827,"OCCO[P:1](Cl)(Cl)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1330,"C=C[CH:1](C1=CC=CC=C1)[Br:2]|((1, 2), 2)"
train,pmechdb_split_0,0,9049,"C[NH:1][CH:2](N)[OH+:3]C.[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2226,"ClC[N+]12CC[N:1](CC1)CC2.FP(C1CCCCC1)(C1CCCCC1)(C1CCCCC1)[OH+:2][H:3].F[B-](F)(F)F|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7617,"CO[P-:1]1(=O)(OC)[CH2:2][C:3](C)(C)[O:4]1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,100,"CC(C)[N](C(C)C)[Li:1].CC12CCC3C(C)(CO[Si](C)(C)C(C)(C)C)C(=[O:2])CCC3(C)C1CCC1=COC=C12|(2, 1)"
train,pmechdb_split_0,0,9114,"CC#C[C:1](C)([N:2](CC)CC)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6389,"CCCC(O)=[O:1].CCCCCCCCO.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9975,"CCO[C:1]1=[CH:2]C=CC=C1.C[C+:3]=O|((1, 2), 3)"
train,pmechdb_split_0,0,4982,"CC(C)[C:1]1([H:2])C=C[C+:3](CBr)[CH:4]=[CH:5]1.[F-:6]|(6, 2);((2, 1), 5);((5, 4), 3)"
train,pmechdb_split_0,0,7130,"CO[CH:1]=[NH2+:2].C[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4420,"O=C(C1=CC=CC=C1)C1C(O)(C2=CC=CC=C2)[O+:1]=[C:2](C2=CC=CC=C2)[CH:3]1[H:4].O=S(=O)(C(F)(F)F)[O-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2336,"BrC1(COCC2=CC=CC=C2)CC[C:1](=[OH+:2])[C:3]1(Br)[H:4].C1=CC=[N:5]C=C1|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,928,"CC(=O)ON1C2(C)CCC1(C)CC([OH+:1][H:2])=NC2.CC1=CC(C)=C(S(=O)(=O)[O-])C(C)=C1.CC[N:3](CC)CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8893,"[BH3-:1][PH3+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,7514,"CO[C:1](C)=[O+:2]C.C[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5840,"CC12CC[C:1]([OH2+:2])([O:3]CCO)CC1CCC2=O.O=C([O-])C(=O)O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,377,"C1=CC=C(C(=NCC[NH2:1])[C:2](C2=CC=CC=C2)=[O:3])C=C1.CC(=O)O.CCO.NCCN.O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6498,"CC(C)[N-:1]C(C)C.C[C:2]([H:3])=[C:4](C)[Br:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6887,"CC[OH:1].C[C:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6351,"N[C:1](C1CCCCC1)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3389,"CC1(C)OC2C=CC3C(OCC4=C(Br)C5=C(OCO5)[CH+:1][C:2]43[H:3])C2O1.O=S(=O)(C(F)(F)F)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,5573,"C1C[CH+:1]CCC[C:2]#[C:3]C1.O=C([O-])C1=CC=C([N+](=O)[O-])C=C1|((2, 3), 1)"
train,pmechdb_split_0,0,5691,"CC(=O)[O-:1].O[P+:2](O)(O)[O:3][CH3:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,9672,"C1CC[NH:1]CC1.CN(C)C=O.CNC(=O)C(CCSC)NC(=O)OC[C:2]1([H:3])C2=C(C=CC=C2)C2=C1C=CC=C2|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3494,"O=C(O[C:1]1=[CH:2]C=C(Br)C=C1)C1=CC=CC=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6445,"CC[CH-:1][N+](=O)[O-].[Br:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5894,"C1=CC=[N:1]C=C1.COC(=O)C[C:2]([C:3](C(=O)OC)(C(O)CCl)[H:4])=[O:5].O|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,47,"CC1CCCC(C2=CC=CC=C2)[C:1](C2=CC=CC=C2)=[CH:2]1.[H:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8254,"CC[NH+:1](C(C)([O-])Cl)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,371,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.CN(C(=O)N(C)C1CC[N+:2](=[C:3]2CCC(=O)[CH:4]2[H:5])CC1C1=CC=C(F)C=C1)C1=CC(C(F)(F)F)=CC(C(F)(F)F)=C1.O|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,2995,"OB[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9290,"CO[C:1]1([OH:2])OCCC[NH2+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7583,"C[C:1](O)([OH:2])[OH+:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7075,"CCCCC1=C([B-:1]2([Cl:2])OC3=C(C=CC=C3)O2)C2=C(C=CC=C2)[S+]1C|((1, 2), 2)"
train,pmechdb_split_0,0,6371,"C1=CC=C(C2CCC(C3=CC=CC=C3)[CH:1]=[C:2]2C2=CC=CC=C2)C=C1.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3147,"CC(=O)C[CH:1]([H:2])[C:3](C)=[NH+:4]C1=C(Br)C=CC=C1.CC(=O)[O-:5].O|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,10087,"CCCC1=CC(C)=C([O+](C)[B-:1](Br)(Br)[Br:2])C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,5468,"CC(C)CC(C(=O)OCC1=CC=CC=C1)[NH+:1]=[C:2]1C(C(C)NC(=O)OCC2C3=CC=CC=C3C3=C2C=CC=C3)O[C:3](C(CCCNC(=O)OCC2=CC=CC=C2)NC(=O)OC(C)(C)C)([O-:4])[O:5]1|(4, 3);((3, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2260,"C[CH:1]=[NH2+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6662,"C1=CC=C(C2CCC(C3=CC=CC=C3)[CH:1]=[C:2]2C2=CC=CC=C2)C=C1.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
